US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-methylphenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
Using N-[6-(4-amino-2-methylphenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (100 mg, 0.31 mmol), 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (99.7 mg, 0.403 mmol), N,N-dimethylformamide (1 mL), N,N-diisopropylethylamine (107 μL, 0.620 mmol) and HATU (153 mg, 0.403 mmol) and in the same manner as in Example 57, the title compound (125.7 mg, 74%) was obtained as a white solid.

reactant | N-[6-(4-amino-2-methylphenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.31 mmol, 100 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)C | C18H18N4O2
reactant | 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.403 mmol, 99.7 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1C)C(=O)O)=O | C13H10FNO3
reactant | N,N-diisopropylethylamine | 0.620 mmol, 107 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.403 mmol, 153 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-methylphenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 125.7 mg, 74% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=C(C=C2)F)=O)C)C1 | C31H26FN5O4
